US08865736B2
3-[(6-Bromohexyl)oxy]benzenecarboxamide
K2CO3 (1.38 g, 10 mmol, 1 equiv.) was added to a suspension of 3-hydroxybenzamide (1.37 g, 10 mmol, 1 equiv.) in CH3CN (100 ml). The mixture stirred for 10 min at room temperature, before 1,6-dibromo-hexane (9.76 g, 40 mmol, 4 equiv.) was added. The resulting mixture was stirred at 60° C. for 16 h. After this time, the reaction was cooled to room temperature, any undissolved solids were filtered off and the filtrate evaporated under reduced pressure to dryness. The residue was taken-up in EtOAc and water. The organic phase was separated and washed consecutively with K2CO3 solution, water and brine. Dried with MgSO4 and evaporated under reduced pressure to a small volume. The precipitant solid was filtered and washed with EtOAc/pentane, to give the desired compound as a white solid (2.0 g, 67%), mp 115-117° C. HPLC-MS (method 1): m/z 300 [M]+, 302 [M+2H]+, Rt=4.08 min.

reactant | K2CO3 | 10 mmol, 1.38 g, 1 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-hydroxybenzamide | 10 mmol, 1.37 g, 1 equiv. | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | 1,6-dibromo-hexane | 40 mmol, 9.76 g, 4 equiv. | BrCCCCCCBr | C6H12Br2
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 3-[(6-Bromohexyl)oxy]benzenecarboxamide | 2.0 g, 67% | BrCCCCCCOC=1C=C(C=CC1)C(=O)N | C13H18BrNO2
